US09127024B2
Step 5: Synthesis of 7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-6-carboxylic acid
To a solution or methyl 2-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.6 g, 2.040 mmol) in 40 ml CCl4 was added N-Bromosuccinimide (0.363 g, 2.040 mmol) and (E)-1,1′-(diazene-1,2-diyl)dicyclohexanecarbonitrile (0.050 g, 0.204 mmol). The mixture was stirred at 80° C. overnight. The reaction mixture was extracted with 5% KOH in water (3×20 ml). The water phase stirred for 1 hour and then the solution was cooled to 0° C. and slowly acidified to pH<1 with 1N HCl. The precipitant that formed was filtered onto fritted filter and dried in vacuum for overnight to give 0.137 g of IXS-5-49-1, 1H NMR in DMSO-d6 is consistent with desired product. MS [MH+]=196.

reactant | methyl 2-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.040 mmol, 0.6 g | FC1=C(C(=O)OC)C=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C15H20BFO4
reactant | N-Bromosuccinimide | 2.040 mmol, 0.363 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-1,1′-(diazene-1,2-diyl)dicyclohexanecarbonitrile | 0.204 mmol, 0.050 g | N(=N\C1(CCCCC1)C#N)/C1(CCCCC1)C#N | C14H20N4
solvent | CCl4 | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-6-carboxylic acid | FC1=C(C=CC2=C1B(OC2)O)C(=O)O | C8H6BFO4
